US06544990B2
N-(4-chlorobenzyl)-8-(3-hydroxy-1-propynyl)-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
To a solution of N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide (264 mg), PdCl2(PPh3)2 (17.3 mg), and CuI (4.7 mg) in 9.6 mL Et2NH is added propargyl alcohol (0.029 mL, 0.492 mmol). Distilled CH2Cl2 (14 mL) is added to help solublize the reactants. The reaction is stirred at room temperature overnight, then condensed to remove the solvents. The crude product is adsorbed onto silica and chromatographed (eluent 1% MeOH in CH2Cl2 (1L), 2% MeOH in CH2Cl2 (1L), and 3% MeOH in CH2Cl2 (2L)). Product-containing fractions are combined and condensed to afford 148.2 mg (63%) of the desired product as a tan solid.

reactant | N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 264 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)I)C)C=C1 | C23H23ClIN3O3
reactant | propargyl alcohol | 0.492 mmol, 0.029 mL | C(C#C)O | C3H4O
reactant | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
solvent | Et2NH | 9.6 mL | N(CC)CC | C4H11N
catalyst | PdCl2(PPh3)2 | 17.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 4.7 mg | [Cu]I
product | N-(4-chlorobenzyl)-8-(3-hydroxy-1-propynyl)-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 148.2 mg, 63% | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)C#CCO)C)C=C1 | C26H26ClN3O4
